US08440662B2
Step 3: 4-(3-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide
To a 500 mL round bottom flask, 4-(3-(4-bromo-3-fluorophenyl)ureido)-N,N-dimethyl-benzamide (15.0 g, 0.0395), bis(pinacolato)diboron (15.19 g, 0.0593 mol), KOAc (7.7 g, 0.0790 mol) and 1,4-dioxane (200 mL) was added. The reaction vessel was degassed with nitrogen for 5 min. To the flask was added Pd(dppf)Cl2.DCM (2.2 g, 0.0027 mol) and again degassed with nitrogen for 5 min. The reaction mixture was maintained at 115° C. for 12 h. The cooled reaction mass was filtered through a pad of Celite® reagent. Water was then added to the filtrate and the product extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to obtain the crude product. The crude product was purified by column chromatography using 60-120 silica gel, 2-5% MeOH in chloroform to get the title compound [7 g, 43%]. 1H NMR (400 MHz, CDCl3): δ 8.56 (s, 1H), 8.23 (s, 1H), 7.63 (t, J=7.6 Hz, 1H), 7.39 (dd, J″=1.6 Hz, J″=11.6 Hz, 1H), 7.21 (d, J=8.4 z, 2H), 7.07 (dd, J′=8.0 Hz, J″=1.6 Hz, 1H), 7.00 (d, J=8.8 Hz, 2H), 3.18 (s, 3H), 3.02 (s, 3H), 1.35 (s, 12H); LC-MS (ESI): Calculated mass: 427.2; Observed mass: 428.1 (RT: 1.54 min).

reactant | 4-(3-(4-bromo-3-fluorophenyl)ureido)-N,N-dimethyl-benzamide | 15.0 g | BrC1=C(C=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O)F | C16H15BrFN3O2
reactant | bis(pinacolato)diboron | 0.0593 mol, 15.19 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.0790 mol, 7.7 g | CC(=O)[O-].[K+]
reactant | DCM | 0.0027 mol, 2.2 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 4-(3-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide | 7 g, 43% | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O | C22H27BFN3O4
